Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
partial mall bowel obstruction
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ M with a remote history of an open RnY GBP (Dr. ___, 
___ ago) and open CBD exploration in ___ seen in the ED for
epigastric abdominal pain and nausea x3 days.  No vomiting.  
Passing normal BMs.  No f/c.  No melena or hematochezia. 
He reports previous similar episodes roughly 4 times since his 
bypass with admission to ___ on the last episode.  Dx with 
partial small bowel obstruction on that admission which managed 
nonoperatively. 
He further reports heartburn and moderate regurgitation since 
the onset of sx.  Also with a significant reduction in satiety 
to PO foods over the last several years.  Able to eat a regular 
size meal without difficulty.  Coincides with significant weight 
regain.

 
Past Medical History:
- chronic LBP  
- HTN  
- HLD  
- DM type II (no meds)  
- COPD  
- h/o PE after surgery ___  
- h/o anemia  
- hiatal hernia, gastric bypass ___ yrs ago, 2 ventral 
hernia  surgeries, appendectomy, cholecystectomy,  ___ 
Removal of cystic duct stone, common bile duct exploration, 
portal lymph node biopsy, Tru-Cut biopsy of the liver, closure 
of common bile duct.
- B12 DEFICIENCY ANEMIA 
- DEPRESSION 
- GASTROESOPHAGEAL REFLUX 
- OBESITY
 
Social History:
___
Family History:
No significant history of pulmonary disease in the family.

 
Physical Exam:
PE:
95   155/98   16   99% ra   98.6
A+O x3, NAD
Eyes clear EOMI
Neck supple no LAD
Lungs mildly coarse bilat no RRW
Heart RRR no MRG
Abd soft, obese, mild ttp in epigastrium and RUQ, questionably
distended, well healed ___ and midline scars, no peritonitis. 

Subtle bulge in RUQ c/w hernia, minimal ttp, no skin changes
Skin dry, flaky, no lesions
Psych CN ___ grossly intact
Neuro normal mood and affect
 
Pertinent Results:
UGI SGL CONTRAST W/ KUB (___)
IMPRESSION: 
No evidence of gastro-gastric fistula.  No evidence of leak or 
obstruction

CT ABD & PELVIS WITH CO (___)
IMPRESSION:
1. Multiple abdominal hernias, the largest a Spigelian hernia in 
the right mid
abdomen, containing 2 loops of small bowel.  Proximal small 
bowel is mildly
dilated and becomes partially collapsed after exiting the 
Spigelian hernia
suggesting partial small bowel obstruction.  This overall 
appearance is
similar to the study of ___.
2. Two small ventral hernias containing a single loop of small 
bowel each.
3. Diverticulosis without diverticulitis.
4. 2.2 cm right adrenal nodule previously characterized as an 
adenoma on MRI
of ___.

CXR (___)
IMPRESSION:  
No acute cardiopulmonary process seen.  Findings suggestive of 
COPD.

BEDSIDE SWALLOWING EVALUATION (___)
Based on the assessment pt presented with functional swallowing, 
no s/sx of aspiration observed with PO's. Silent aspiration 
cannot be ruled out at bedside. At this time, pt appears safe to 
continue with current diet of regular solids and thin liquids. 
Meds as tolerated. Aspiration precautions such as upright for 
all meals, alternate solids and liquid and decrease talking with 
PO. TID oral care. These recommendations were discussed with pt 
who demonstrated good understanding of topic discussed. We are 
signing off at this time. Please reconsult as needed. 
This swallowing pattern correlates to a Functional Oral Intake 
Scale (FOIS) rating of ___.
RECOMMENDATIONS:
1. PO diet: regular solids and thin liquids
2. PO meds: as tolerated
3. TID oral care
4. Aspiration precautions:
- upright for all meals
- alternate solids and liquids
- decrease talking during meals

 
Brief Hospital Course:
Patient was managed with conservative management and he was seen 
by pulmonary service for management of his COPD for tentative 
surgery for his hernia in future and also episodes of 
desaturation while sleeping. After tolerating regular diet he 
was discharged with the following plans: 
Outpatient followup with: Pulmonary service (for COPD 
management), Nutrition service, Sleep study (for obstructive 
sleep apnea), Gastroenterology for upper GI endoscopy to r/o 
fistula and further evaluation) and Dr. ___ clinic to ___ for 
hernia and further planning.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Enalapril Maleate 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
4. phentermine 37.5 mg oral DAILY 
5. Vitamin D ___ UNIT PO 1X/WEEK (___) 
6. PreserVision AREDS 2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY 
7. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Medications:
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Aspirin 81 mg PO DAILY 
3. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
4. Enalapril Maleate 10 mg PO DAILY 
5. Vitamin D ___ UNIT PO 1X/WEEK (___) 
6. PreserVision AREDS 2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY 
7. phentermine 37.5 mg oral DAILY 
8. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
partial small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, you are being discharged after an episode of partial 
small bowel obstruction which has resolved by conservative 
management.

Please call your surgeon or return to the emergency department 
if you develop a fever 
greater than 101.5, chest pain, shortness of breath, severe 
abdominal pain, pain unrelieved by  pain medication, severe 
nausea or vomiting, severe abdominal bloating, inability to eat 
or drink, foul smelling or colorful drainage from your 
incisions, redness or swelling around your incisions, or any 
other symptoms which are concerning to you.
  
Diet: you are on Regular diet
  
Resume your home medications.
Please use over the counter pain meds and or stool softeners if 
you develop constipation.
Please use your medication as instructed.

Activity:  
No heavy lifting of items ___ pounds for 6 weeks. You may  
resume moderate exercise at your discretion

 
Followup Instructions:
___